US06620957B1
Synthesis of di-tert-butylphenyliodonium pentafluorobenzenesulfonate
Di-tert-butylphenyliodonium chloride (443 mg; 1 mmol), ethyl orthoacetate (342 mg; 2 mmol), and pentafluorobenzenesulfonic acid (298 mg; 1.2 mmol) were dissolved in chloroform (5 ml), and the resultant mixture was refluxed for 2 hours while being stirred. The solvent was removed through distillation, and the thus-obtained solid matter was washed with ether, to thereby yield 436 mg of the target compound as white crystals (yield: 68%).

reactant | Di-tert-butylphenyliodonium chloride | 1 mmol, 443 mg | [Cl-].C(C)(C)(C)[IH+](C1=CC=CC=C1)C(C)(C)C
reactant | ethyl orthoacetate | 2 mmol, 342 mg | C(C)(OCC)([O-])[O-]
reactant | pentafluorobenzenesulfonic acid | 1.2 mmol, 298 mg | FC1=C(C(=C(C(=C1S(=O)(=O)O)F)F)F)F | C6HF5O3S
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | di-tert-butylphenyliodonium pentafluorobenzenesulfonate | yield 436 mg, yield: 68% | FC1=C(C(=C(C(=C1S(=O)(=O)[O-])F)F)F)F.C(C)(C)(C)[IH+](C1=CC=CC=C1)C(C)(C)C | InChI=1S/C14H24I.C6HF5O3S/c1-13(2,3)15(14(4,5)6)12-10-8-7-9-11-12;7-1-2(8)4(10)6(15(12,13)14)5(11)3(1)9/h7-11,15H,1-6H3;(H,12,13,14)/q+1;/p-1
